* tb_temp_accuracy_mc -- GENERATED by sim/build_tb.py
* Do not edit. Sources:
*   sim/temp-accuracy-mc/testbench/stimulus.spice
*   design/netlist/temp_core.spice  (sha256 c017e15399812a21ff04ac037d785e3c6b1fa77b5b0c45080fcacf6b9a5e64d4)
* Regenerate with:
*   python3 sim/build_tb.py

* temp-accuracy-mc -- stimulus half of the testbench fragment.
*
* The other half is a verbatim copy of design/netlist/temp_core.spice,
* appended by sim/build_tb.py to produce tb_temp_accuracy_mc.spice. Edit
* THIS file (or the schematic), never the generated fragment.
*
* Netlist FRAGMENT: no .include / .lib / .temp / .control / .end -- the
* harness owns those. Parameters supplied by sim/harness/montecarlo.py:
* vdd_val, vdd_nom, temp_c (plus .option seed=/.param sw_stat_mismatch=1,
* which are the whole point of this deck -- see that module's docstring).
*
* WHAT THIS EXPERIMENT SUBSTANTIATES (issue #15)
*
* spec/target-spec.md#temp-accuracy-untrimmed and #temp-accuracy-trimmed --
* the LOCAL MISMATCH share of both [3sigma] rows, complementing the
* deterministic corner-sweep systematic/corner share already published by
* sim/temp-accuracy-vt/ (#13) and sim/temp-core-designer-check/. Runs the
* SAME idealised-IBIAS cell-level DUT sim/temp-core-designer-check/ uses
* (design/temp_core.spice, 500 nA idealised IBIAS reference, not the
* assembled path's bias_core-driven current) -- deliberate, not a cut
* corner: mismatch is a property of THIS cell's own devices (the PNP
* pair/ratio, the R1/R2/RISO resistor ratios, the differential-pair
* amplifier), not of bias_core's startup dynamics, so isolating it on the
* cheaper idealised-bias cell-level testbench is the right level to run
* N=500-2000 independent ngspice invocations at, the way
* temp-core-designer-check already isolates the systematic term on the same
* cell. The assembled-path corner sweep (#13) remains the authority for the
* systematic/process/temperature/rail axis; this experiment adds the
* mismatch axis on top, at #13's own measured binding points.
*
* ONE BRANCH, NOT FIVE: temp-core-designer-check's other four branches
* (disabled-state draw, nominal-rail reference, 10 Mohm pad load, standalone
* trim ladder) answer questions this issue does not ask (Iq, supply
* sensitivity, buffering, trim-range) and would only add ngspice solve cost
* to N=500-2000 invocations per binding point for no evidence this issue
* needs.
*
* TWO TEMPERATURES, ONE DIE: #temp-accuracy-trimmed is not a direct
* measurement -- exactly as sim/temp-accuracy-vt/analyze_derived.py's module
* docstring explains, "error after a one-point 25 C gain trim" relates a
* point's own reading to that SAME corner's 25 C reading, and a real 25 C
* production trim calibrates each physical die against ITS OWN mismatch, not
* against a population average. So each MC sample here takes two readings
* off the SAME die (the same random mismatch draw): one at the fixed 25 C
* trim-reference point, one at this binding point's own temperature. `.temp`
* is a single global value per ngspice run, so this uses the
* `dc temp <T> <T> 1` idiom (a one-point DC sweep of the special TEMP
* variable) TWICE in the same control block -- ngspice has no interactive
* "settemp" command, and .param-elaborated mismatch values are fixed once at
* netlist load time regardless of how many analyses run afterward, so this
* changes the die's operating temperature WITHOUT re-drawing its mismatch
* (verified empirically -- see sim/tests/test_montecarlo.py). The 25 C
* reading's own `let`/`print` pair runs immediately after its `dc`, before
* the second `dc` switches ngspice's "current plot" out from under it (see
* sim/harness/montecarlo.py's `_format_analysis` docstring for why this
* can't just be two ordinary tb.json `measure` entries).
*
* Absolute-temperature probe `tk`: `temper` is not reachable from a measure
* expression, so it is published as a node voltage (1 V per kelvin), exactly
* as temp-core-designer-check does.

Btk tk 0 v='temper + 273.15'
Rtk tk 0 1G

vsup  vdd 0 dc {vdd_val}
ven   en  0 dc {vdd_val}
xdut  vdd 0 ibias en ptat ctat temp_core
ibref vdd ibias dc 500n
Rlp   ptat 0 1T
Rlc   ctat 0 1T

* temp_core -- generated by design/netlist.py from design/temp_core.sch
* Do not edit: edit the schematic and re-run the export.
** sch_path: design/temp_core.sch
.subckt temp_core VDD VSS IBIAS EN PTAT CTAT
*.PININFO VDD:B VSS:B IBIAS:I EN:I PTAT:O CTAT:O
XMBD IBIAS NBG VSS VSS nfet_03v3 L=2u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMPASS IBIAS EN NBG VSS nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMDNB NBG ENB VSS VSS nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBN1 PB NBG VSS VSS nfet_03v3 L=2u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBP PB PB VDD VDD pfet_03v3 L=4u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBN2 PCAS NBG VSS VSS nfet_03v3 L=2u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMCB PCAS PCAS VDD VDD pfet_03v3 L=8u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMINVP ENB EN VDD VDD pfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMINVN ENB EN VSS VSS nfet_03v3 L=0.5u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMT NT PB VDD VDD pfet_03v3 L=4u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMI1 N1 NA NT NT pfet_03v3 L=4u W=32u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMI2 N2 NB NT NT pfet_03v3 L=4u W=32u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XML1 N1 N1 VSS VSS nfet_03v3 L=8u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XML2 N2 N1 VSS VSS nfet_03v3 L=8u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMS2N PG N2 VSS VSS nfet_03v3 L=8u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMS2P PG PB VDD VDD pfet_03v3 L=4u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XCC PG NZ cap_mim_2f0_m3m4_noshield c_width=12u c_length=12u m=1
XRZ NZ N2 VSS ppolyf_u r_width=2u r_length=1000u m=1
XMP1 M1D PG VDD VDD pfet_03v3 L=4u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMPC1 NA PCAS M1D VDD pfet_03v3 L=1u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP2 M2D PG VDD VDD pfet_03v3 L=4u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMPC2 NB PCAS M2D VDD pfet_03v3 L=1u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP3 M3D PG VDD VDD pfet_03v3 L=4u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMPC3 PTAT PCAS M3D VDD pfet_03v3 L=1u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMSU1 ND PB VDD VDD pfet_03v3 L=8u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMSU2 ND NR VSS VSS nfet_03v3 L=2u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMSU3 PG ND VSS VSS nfet_03v3 L=1u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMDND ND ENB VSS VSS nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMENPG PG EN VDD VDD pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMENPT PTAT ENB VSS VSS nfet_03v3 L=1u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMENCT CTAT ENB VSS VSS nfet_03v3 L=1u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMSU4 NR PG VDD VDD pfet_03v3 L=4u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMSU5 NR NR VSS VSS nfet_03v3 L=2u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMDN2 N2 ENB VSS VSS nfet_03v3 L=1u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMDNT NT ENB VSS VSS nfet_03v3 L=1u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XQ1 VSS VSS NA pnp_10p00x10p00 m=1
XQ8A VSS VSS NC pnp_10p00x10p00 m=1
XQ8B VSS VSS NC pnp_10p00x10p00 m=1
XQ8C VSS VSS NC pnp_10p00x10p00 m=1
XQ8D VSS VSS NC pnp_10p00x10p00 m=1
XQ8E VSS VSS NC pnp_10p00x10p00 m=1
XQ8F VSS VSS NC pnp_10p00x10p00 m=1
XQ8G VSS VSS NC pnp_10p00x10p00 m=1
XQ8H VSS VSS NC pnp_10p00x10p00 m=1
XR1 NB NC VSS ppolyf_u r_width=2u r_length=119.47u m=1
XR2F PTAT T5 VSS ppolyf_u r_width=2u r_length=2652.6u m=1
XR2T5 T5 T4 VSS ppolyf_u r_width=2u r_length=229.71u m=1
XR2T4 T4 T3 VSS ppolyf_u r_width=2u r_length=114.69u m=1
XR2T3 T3 T2 VSS ppolyf_u r_width=2u r_length=57.18u m=1
XR2T2 T2 T1 VSS ppolyf_u r_width=2u r_length=28.42u m=1
XR2T1 T1 T0 VSS ppolyf_u r_width=2u r_length=14.03u m=1
XR2T0 T0 VSS VSS ppolyf_u r_width=2u r_length=6.85u m=1
XRISO NA CTAT VSS ppolyf_u r_width=2u r_length=111.05u m=1
XSW5 T5 VDD T4 VSS nfet_03v3 L=0.5u W=32u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XSW4 T4 VSS T3 VSS nfet_03v3 L=0.5u W=32u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XSW3 T3 VSS T2 VSS nfet_03v3 L=0.5u W=32u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XSW2 T2 VSS T1 VSS nfet_03v3 L=0.5u W=32u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XSW1 T1 VSS T0 VSS nfet_03v3 L=0.5u W=32u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XSW0 T0 VSS VSS VSS nfet_03v3 L=0.5u W=32u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends
